US04680054
A mixture of 26 grams (206 millimoles) of ortho-fluoroanisole and 19.4 grams (247 millimoles) of acetyl chloride was dissolved in 200 milliliters of methylene chloride, and then 33.0 grams (247 millimoles) of anhydrous aluminum chloride was gradually added thereto while cooling with ice and stirring. The resulting mixture was further stirred for 1.5 hours while cooling with ice. The reaction mixture was added to 1,200 milliliters of 5% hydrochloric acid, which was then allowed to separate into aqueous and organic layers. The organic layer thus obtained was washed with a 5% aqueous solution of sodium carbonate and dried over anhydrous sodium sulfate and, thereafter, the methylene chloride was distilled away under reduced pressure, and the residue was recrystallized from ethanol. Thus, as a product, 30.4 grams (181 millimoles) of 3-fluoro-4-methoxyacetophenone was obtained (yield, 88%).

reactant | ortho-fluoroanisole | 206 millimoles, 26 grams | FC1=C(C=CC=C1)OC | C7H7FO
reactant | acetyl chloride | 247 millimoles, 19.4 grams | C(C)(=O)Cl | C2H3ClO
reactant | aluminum chloride | 247 millimoles, 33.0 grams | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | 1,200 milliliters | Cl | ClH
solvent | methylene chloride | 200 milliliters | C(Cl)Cl | CH2Cl2
product | 3-fluoro-4-methoxyacetophenone | 181 millimoles, 30.4 grams | CC(=O)C1=CC(=C(C=C1)OC)F | C9H9FO2
